US08420678B2
4-Dodecyl-N-(1,3,4-thiadiazol-2-yl)benzenesulfonamide (104).
2-Amino-1,3,4-thiadiazole (439 mg, 4.3 mmol) was suspended in pyridine (1.5 mL). p-Dodecylbenzenesulfonyl chloride (1.0 mg, 2.9 mmol) was added slowly at 0° C. The reaction mixture was then heated to 95° C. and was stirred at this temperature for 1 h. The reaction mixture was then added to aqueous 10% HCl (15 mL) and the resulting mixture extracted with ethyl acetate (3×30 mL). The organic extracts were washed with water (3×50 mL), brine (3×50 mL), dried over anhydrous Na2SO4, filtered, and volatiles evaporated to yield a solid mass. Chromatography on silica gel (70-230 mesh) eluted with 2% MeOH in CH2Cl2 gave the product (600 mg, 1.5 mmol, 51%). Recrystallization from hexanes:ethyl acetate (3:7) gave an analytical sample, mp 126-127° C.; 1H NMR (500 MHz, CDCl3) δ 0.87 (3, t, J=6.5 Hz), 1.20-1.36 (18, m), 1.54-1.63 (2, m), 2.62 (2, t, J=7.5 Hz), 7.25 (2, d, J=8.0 Hz), 7.83 (2, d, J=8.0 Hz), 8.28 (1, s), 12.81 (1, br s); 13C NMR (125 MHz, CDCl3) δ 14.0, 22.6, 29.2, 29.3, 29.4, 29.5, 29.6, 31.0, 31.8, 35.8, 126.4, 128.9, 138.0, 142.8, 148.5, 167.5; MS (LCQ, ESL+) Calcd for C20H32N3O2S2 410.1936, found 410.10 (M+H)+; HRMS (ESL+, m/z) Calcd C20H32N3O2S2 410.1936, found 410.1932 (M+H)+.

reactant | 2-Amino-1,3,4-thiadiazole | 4.3 mmol, 439 mg | NC=1SC=NN1 | C2H3N3S
reactant | p-Dodecylbenzenesulfonyl chloride | 2.9 mmol, 1.0 mg | C(CCCCCCCCCCC)C1=CC=C(C=C1)S(=O)(=O)Cl | C18H29ClO2S
reactant | HCl | 15 mL | Cl | ClH
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | 4-Dodecyl-N-(1,3,4-thiadiazol-2-yl)benzenesulfonamide | 1.5 mmol, 600 mg, 51% | C(CCCCCCCCCCC)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=NN1 | C20H31N3O2S2
